US06153611
5-Fluoro-3-{4-[4-(phenylmethyl)-1-piperidinyl]-1-cyclohexen-1-yl]-1H-indole
This compound was prepared from 5-fluoroindole and 4-[4-(phenylmethyl)-1-piperidinyl]cyclohexanone by the method described in Example 48 to give the product (87.1%, mp:72-74° C.). Calc'd for C26H29FN2.0.15C2H5OH: C, 79.83%; H, 7.72%; N, 7.04%. Found: C, 79.89%; H, 7.63%; N, 7.09%.

reactant | 5-fluoroindole | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | 4-[4-(phenylmethyl)-1-piperidinyl]cyclohexanone | C1(=CC=CC=C1)CC1CCN(CC1)C1CCC(CC1)=O | C18H25NO
product | 5-Fluoro-3-{4-[4-(phenylmethyl)-1-piperidinyl]-1-cyclohexen-1-yl]-1H-indole | 87.1% | FC=1C=C2C(=CNC2=CC1)C1=CCC(CC1)N1CCC(CC1)CC1=CC=CC=C1 | C26H29FN2
